US06020371
A solution of cyclohexane carboxaldehyde (11.22 g, 100 mmol, 1 equiv) in THF (100 mL) was added dropwise via addition funnel to a solution of vinylmagnesium bromide (100 mL of a 1.0 M solution in THF, 100 mmol, 1.0 equiv) in Et2O (100 mL) at 0° C. After the addition was completed, the reaction mixture was stirred for 1 h at 0° C. and then partitioned between 0.5 M HCl (150 mL) and a 1:1 mixture of EtOAc and hexanes (2×150 mL). The combined organic layers were dried over Na2SO4 and concentrated to afford a yellow oil. This material was combined (neat) with diethyl malonate (16.7 mL, 110 mmol, 1.1 equiv) and Ti(OEt)4 (2.10 mL, 10.0 mmol, 0.10 equiv) and was heated to 160° C. for 1 h (distilling out EtOH as it was formed). The reaction mixture was then maintained at 190° C. for 4 h and then cooled to 60° C. EtOH (50 mL) and 6.0 M KOH (50 mL) were added sequentially, and the brown reaction mixture was refluxed for 3 h. After cooling to 23° C., the reaction mixture was filtered through a medium frit, and the filtrate was partitioned between water (150 mL) and Et2O (2×100 mL). The aqueous layer was then acidified to pH=2 (as indicated by pH paper) with concentrated HCl and extracted with a 1:1 mixture of EtOAc and hexanes (2×150 mL). The combined organic layers were dried over Na2SO4, concentrated, and the residue was distilled at reduced pressure to afford trans-5-cyclohexyl-pent-4-enoic acid (5.68 g, 31%) as a colorless liquid: bp: 150-156° C. (1 torr); IR (cm-1) 3001 (br), 2923, 1711; 1H NMR (CDCl3) δ 0.96-1.32 (m, 5H), 1.60-1.76 (m, 5H), 1.85-1.94 (m, 1H), 2.27-2.44 (m, 4H), 5.31-5.48 (m, 2H); Anal. (C11H18O2) C, H.

reactant | cyclohexane carboxaldehyde | 100 mmol, 11.22 g, 1 equiv | C1(CCCCC1)C=O | C7H12O
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | diethyl malonate | 110 mmol, 16.7 mL, 1.1 equiv | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | KOH | 6.0 M, 50 mL | [OH-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | EtOH | 50 mL | CCO | C2H6O
product | trans-5-cyclohexyl-pent-4-enoic acid | 5.68 g, 31% | C1(CCCCC1)/C=C/CCC(=O)O | C11H18O2
